US05110956
5-Cyanomethyl-6-isopropyl-1,3-benzodioxole
6.9 g of 5-chloromethyl-6-isopropyl-1,3-benzodioxole was dissolved in 100 ml of dimethyl sulfoxide, followed by the addition of 3.12 g of sodium cyanide. The obtained mixture was stirred at a room temperature for 3 hours and distilled to remove the solvent. Ethyl acetate was added to the residue and the obtained mixture was washed with water and a saturated aqueous solution of common salt successively, dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated to obtain 6.26 g of the title compound as a crude oil.

reactant | 5-chloromethyl-6-isopropyl-1,3-benzodioxole | 6.9 g | ClCC1=CC2=C(OCO2)C=C1C(C)C | C11H13ClO2
reactant | sodium cyanide | 3.12 g | [C-]#N.[Na+]
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 5-Cyanomethyl-6-isopropyl-1,3-benzodioxole | 6.26 g | C(#N)CC1=CC2=C(OCO2)C=C1C(C)C | C12H13NO2
